US07157455B2
The same procedure was used as described in Example 9 starting from (4-amino-2-ethanesulfonylpyrimidin-5-yl)-(2-methoxyphenyl)-methanone, Example 6, and 3-amino-piperidine-1-carboxylic acid tert-butyl ester (Astatech) to give 3-[4-amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester. MS (M+H)+, 428.

reactant | (4-amino-2-ethanesulfonylpyrimidin-5-yl)-(2-methoxyphenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)OC)S(=O)(=O)CC | C14H15N3O4S
reactant | 3-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)N | C10H20N2O2
product | 3-[4-amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)NC1=NC=C(C(=N1)N)C(C1=C(C=CC=C1)OC)=O | C22H29N5O4
